US06022894
A solution of 3-fluorophenol (1.8 g, 16.1 mmol) in acetone (100 mL) was treated with potassium carbonate (6.65 g, 48.2 mmol) and refluxed under nitrogen for 15 minutes. Epibromohydrin (4.4 g, 32.1 mmol) was then added by syringe, and the mixture was refluxed 3 hours. The mixture was cooled and filtered, and the filtrate evaporated to dryness. The residue was partitioned between ether/water, and the layers separated. The ether layer was washed with saturated NaCl, dried over sodium sulfate and evaporated. The resulting oil was distilled under vacuum to give 1.2 g of 3-fluorophenyl glycidyl ether.

reactant | 3-fluorophenol | 16.1 mmol, 1.8 g | FC=1C=C(C=CC1)O | C6H5FO
reactant | potassium carbonate | 48.2 mmol, 6.65 g | C([O-])([O-])=O.[K+].[K+]
reactant | Epibromohydrin | 32.1 mmol, 4.4 g | C(Br)C1CO1 | C3H5BrO
solvent | acetone | 100 mL | CC(=O)C | C3H6O
product | 3-fluorophenyl glycidyl ether | 1.2 g | C(C1CO1)OC1=CC(=CC=C1)F | C9H9FO2
